US06403601B1
(g) 3-Cyano-5,6,7,8-tetrahydro-1-naphthalenecarbonyl chloride
To a solution of 3-cyano-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid (0.207 g, 1.03 mmol) in DCM (5 mL) was added oxalyl chloride (0.112 mL, 1.29 mmol) and 1 drop of DMF. The mixture was stirred at room temperature for 2 h., the solvent was removed in vacuo and the 3-cyano-5,6,7,8-tetrahydro-1-naphthalenecarbonyl chloride was used without purification.

reactant | 3-cyano-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid | 1.03 mmol, 0.207 g | C(#N)C=1C=C(C=2CCCCC2C1)C(=O)O | C12H11NO2
reactant | oxalyl chloride | 1.29 mmol, 0.112 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 3-Cyano-5,6,7,8-tetrahydro-1-naphthalenecarbonyl chloride | C(#N)C=1C=C(C=2CCCCC2C1)C(=O)Cl | C12H10ClNO
